datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCNCC#CC[NH:10]CC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCNCC#CC[NH+:10](CC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC[N+:21](CC)(Cc1cc(Cl)cc(Cl)c1[O-])[H:20].Cc1ccc(C[NH:10]CC[NH3+])cc1>>CC[N:21](CC)Cc1cc(Cl)cc(Cl)c1[O-].Cc1ccc(C[NH+:10](CC[NH3+])[H:20])cc1 10=20;20,21=21",
"Fc1ccc2[nH]c[n+:21]([H:20])c2c1.c1cc(CCC[NH2:10])ccn1>>Fc1ccc2[nH]c[n:21]c2c1.c1cc(CCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH+:21]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C(c1cc[nH]n1)[O-:10]>>CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH:21][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C(c1cc[nH]n1)[O:10][H:20] 10=20;20,21=21",
"CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N:10](C)C.[O-]c1cc[n+:21]([H:20])c[nH+]1>>CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N+:10](C)(C)[H:20].[O-]c1cc[n:21]c[nH+]1 10=20;20,21=21",
"C[NH:10]CC(O)c1cccc(O)c1.c1ccc2cc3c(cc2c1)nc[n:21]3[H:20]>>C[NH+:10](CC(O)c1cccc(O)c1)[H:20].c1ccc2cc3c(cc2c1)nc[n-:21]3 10=20;20,21=21",
"CC(C[NH2:10])C(N)=NO.COc1ccc2c3c([nH]c2c1)C(C)=[N+:21]([H:20])CC3>>CC(C[NH2+:10][H:20])C(N)=NO.COc1ccc2c3c([nH]c2c1)C(C)=[N:21]CC3 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]C(=O)OCc2ccc([N+](=O)[O-])cc2)cc1.Cc1cccc(C)c1NC(=O)C[N+:21]1([H:20])CCCCC1>>Cc1ccc(S(=O)(=O)[N:10](C(=O)OCc2ccc([N+](=O)[O-])cc2)[H:20])cc1.Cc1cccc(C)c1NC(=O)C[N:21]1CCCCC1 10=20;20,21=21",
"CN(C)CC[N+:21](C)(C)[H:20].O=Cc1c(O)ccc[n:10]1>>CN(C)CC[N:21](C)C.O=Cc1c(O)ccc[n+:10]1[H:20] 10=20;20,21=21",
"CN(C)c1oc2c([n+:21]1[H:20])CCCC2.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH-:10]>>CN(C)c1oc2c([n:21]1)CCCC2.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH:10][H:20] 10=20;20,21=21",
"Oc1ccccc1CCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccccc1CCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(CC[NH2:10])NC(Cc1c[nH]cn1)C(=O)[O-].c1cc(-c2cc[n+:21]([H:20])cc2)ccn1>>O=C(CC[NH2+:10][H:20])NC(Cc1c[nH]cn1)C(=O)[O-].c1cc(-c2cc[n:21]cc2)ccn1 10=20;20,21=21",
"CC(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CC(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"CC(C)C(C(N)=O)[NH:21][H:20].c1cncc(-c2ccc[n:10]c2)c1>>CC(C)C(C(N)=O)[NH-:21].c1cncc(-c2ccc[n+:10]([H:20])c2)c1 10=20;20,21=21",
"Cc1nn(-c2ccccc2)c([O-:10])c1C1CCCCC1.c1ccc2c(c1)ccc1c2[nH]c[n+:21]1[H:20]>>Cc1nn(-c2ccccc2)c([O:10][H:20])c1C1CCCCC1.c1ccc2c(c1)ccc1c2[nH]c[n:21]1 10=20;20,21=21",
"Cc1ccc([N:21]([N+](=O)[O-])[H:20])cc1.O=S(=O)(c1ccccc1)[N-:10]c1ccccc1>>Cc1ccc([N-:21][N+](=O)[O-])cc1.O=S(=O)(c1ccccc1)[N:10](c1ccccc1)[H:20] 10=20;20,21=21",
"CC(=O)C(C)C(C)(C)C(=O)[O-:10].CSC1=NC(C)=C/C(=[O+:21]/[H:20])N1C>>CC(=O)C(C)C(C)(C)C(=O)[O:10][H:20].CSC1=NC(C)=CC(=[O:21])N1C 10=20;20,21=21",
"C(CSCCc1nnn[n:21]1[H:20])SCCc1nnn[n-]1.CC(C)Oc1cccc(C(=O)[O-:10])c1>>C(CSCCc1nnn[n-:21]1)SCCc1nnn[n-]1.CC(C)Oc1cccc(C(=O)[O:10][H:20])c1 10=20;20,21=21",
"N#CC(CCCCC(=O)[O:21][H:20])c1ccccc1.O=C1C(/C=C/c2ccccc2)=C([O-:10])C(=O)c2ccccc21>>N#CC(CCCCC(=O)[O-:21])c1ccccc1.O=C1C(/C=C/c2ccccc2)=C([O:10][H:20])C(=O)c2ccccc21 10=20;20,21=21",
"CC[N:10]1CCOCC1.O=C(O)c1ccc[o+:21]1[H:20]>>CC[N+:10]1([H:20])CCOCC1.O=C(O)c1ccc[o:21]1 10=20;20,21=21",
"O=C([O-])[C@]12C[NH:10]CC[C@H]1O2.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])[C@]12C[NH+:10]([H:20])CC[C@H]1O2.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].SCC[NH:10]Cc1cccs1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.SCC[NH+:10](Cc1cccs1)[H:20] 10=20;20,21=21",
"Cc1c[n:10]c2ccc(C)c([N+](=O)[O-])c2c1NCCC[NH+](C)C.Nc1c2ccccc2[nH+]c2c([O:21][H:20])cccc12>>Cc1c[n+:10]([H:20])c2ccc(C)c([N+](=O)[O-])c2c1NCCC[NH+](C)C.Nc1c2ccccc2[nH+]c2c([O-:21])cccc12 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCC.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCC)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CO[O:21][H:20].Ic1cccc([O-:10])c1>>CO[O-:21].Ic1cccc([O:10][H:20])c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C(c1ccccc1)N1CC[NH:10]CC1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C(c1ccccc1)N1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"O=C(Oc1ccc([N+](=O)[O-])cc1[N+](=O)[O-])c1ccc([O-:10])cc1.O=C1C=CC=CC([O:21][H:20])=C1[O-]>>O=C(Oc1ccc([N+](=O)[O-])cc1[N+](=O)[O-])c1ccc([O:10][H:20])cc1.O=C1C=CC=CC([O-:21])=C1[O-] 10=20;20,21=21",
"CC(=O)Nc1ccc([S:21][H:20])cc1.O=C([O-])c1cccc([NH2:10])c1>>CC(=O)Nc1ccc([S-:21])cc1.O=C([O-])c1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"Cc1cccc(C(=O)[O:21][H:20])c1O.O=[PH]([O-])C(c1ccccc1O)[NH:10]Cc1ccccn1>>Cc1cccc(C(=O)[O-:21])c1O.O=[PH]([O-])C(c1ccccc1O)[NH+:10](Cc1ccccn1)[H:20] 10=20;20,21=21",
"COc1c[n+:21]([H:20])c2ccccc2n1.O=C([O-])CCCCCCCCCC[NH2:10]>>COc1c[n:21]c2ccccc2n1.O=C([O-])CCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC1(C)CC(=O)C2=C(C1)[N:21]([H:20])C1=C(C2)C(=O)CC(C)(C)C1.Ic1cccc([O-:10])c1>>CC1(C)CC(=O)C2=C(C1)[N-:21]C1=C(C2)C(=O)CC(C)(C)C1.Ic1cccc([O:10][H:20])c1 10=20;20,21=21",
